US09034900B2
Step 3: 4-[2-(cyclopropylmethoxy)-5-ethylsulfonylphenyl]-6-methyl-7-oxothieno[2,3-c]pyridine-2-carboxamide
A mixture of 2-[2-(cyclopropylmethoxy)-5-ethylsulfonylphenyl]-4,4,5,5-tetramethyl-1,3,2-dioxaborolane (77 mg, 0.22 mmol), 4-bromo-6-methyl-7-oxothieno[2,3-c]pyridine-2-carboxamide (50 mg, 0.18 mmol), K3PO4 (93 mg, 0.44 mmol), Pd(dppf)Cl2 (13 mg, 10%) in dioxane/H2O (1.6 mL/160 uL) was bubbled with nitrogen for 5 min. The sealed vial was stirred at 65° C. for 3 h. The reaction mixture was filtered through a short plug of celite; the celite plug was washed with EtOAc (15 mL). The filtrate was washed with water and brine; the organic layer was dried over sodium sulfate, filtered and concentrated in vacuo to afford a tan residue. The resulting residue was purified by prep-HPLC to afford the title compound (20 mg, 26%) as a white solid. 1H NMR (400 MHz, DMSO-d6) δ ppm 0.20 (m, 2H) 0.36 (m, 2H) 0.98 (m, 1H) 1.14 (m, 3H) 3.21-3.31 (m, 2H) 3.61 (s, 3H) 3.98 (m, 2H) 7.38 (d, J=8.6 Hz, 1H) 7.65-7.75 (m, 3H) 7.78 (d, J=2.0 Hz, 1H) 7.91 (dd, J=8.6, 2.0 Hz, 1H) 8.24 (s, 1H). LCMS (M+H)+=447.

reactant | 2-[2-(cyclopropylmethoxy)-5-ethylsulfonylphenyl]-4,4,5,5-tetramethyl-1,3,2-dioxaborolane | 0.22 mmol, 77 mg | C1(CC1)COC1=C(C=C(C=C1)S(=O)(=O)CC)B1OC(C(O1)(C)C)(C)C | C18H27BO5S
reactant | 4-bromo-6-methyl-7-oxothieno[2,3-c]pyridine-2-carboxamide | 0.18 mmol, 50 mg | BrC=1C2=C(C(N(C1)C)=O)SC(=C2)C(=O)N | C9H7BrN2O2S
reactant | K3PO4 | 0.44 mmol, 93 mg | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
solvent | dioxane H2O | 1.6 mL | O1CCOCC1.O
catalyst | Pd(dppf)Cl2 | 13 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 4-[2-(cyclopropylmethoxy)-5-ethylsulfonylphenyl]-6-methyl-7-oxothieno[2,3-c]pyridine-2-carboxamide | 20 mg, 26% | C1(CC1)COC1=C(C=C(C=C1)S(=O)(=O)CC)C=1C2=C(C(N(C1)C)=O)SC(=C2)C(=O)N | C21H22N2O5S2
